US09164195B2
3. Preparation of 2,2′-biphenyl diacrylate (“BPDA-2”)
To a 1000 ml 3 neck round bottom equipped with an overhead stirrer and temperature probe was added 2,2′-dihydroxy-biphenyl (50 g), Prostab 5198 (0.02 g), DMF (150 ml) and triethylamine (59.8 g). The reaction was cooled to <0 C with methanol/dry ice bath and acryloyl chloride (51 g) was slowly added. The GC indicated the reaction was mostly complete with ˜15% monoacrylate. Triethylamine (10 g) was added followed by the addition of acryloyl chloride (9 g). The GC indicated the reaction was complete. The reaction product was treated with (300 ml) methyl t-butyl ether and (300 ml) DI water. The organic portion was separated and washed 5 times with 200 ml sodium chloride brine. The organic portion was treated with 50 g filter aid, mixed and filtered through a thin pad of silica gel. The filtrate was concentrated in vacuo to recover a yellow oil. This oil (69 g) was taken up in 300 ml chloroform and filtered through a short silica gel column (5.5 inch diameter by 4 inches thick) and eluted with chloroform/heptane. The product (52 g) was recovered by concentrating the eluent in vacuo. GC indicated >98% product. The refractive index of the (i.e. uncured) monomer was determined to be 1.571.

reactant | 2,2′-dihydroxy-biphenyl | 50 g | OC1=C(C=CC=C1)C1=C(C=CC=C1)O | C12H10O2
reactant | DMF | 150 ml | CN(C)C=O | C3H7NO
reactant | triethylamine | 59.8 g | C(C)N(CC)CC | C6H15N
reactant | acryloyl chloride | 51 g | C(C=C)(=O)Cl | C3H3ClO
reactant | Triethylamine | 10 g | C(C)N(CC)CC | C6H15N
reactant | acryloyl chloride | 9 g | C(C=C)(=O)Cl | C3H3ClO
solvent | DI water | 300 ml | O | H2O
solvent | methyl t-butyl ether | 300 ml | C(C)(C)(C)OC | C5H12O
product | 2,2′-biphenyl diacrylate | C(C=C)(=O)O.C(C=C)(=O)O.C1=C(C=CC=C1)C1=CC=CC=C1 | InChI=1S/C12H10.2C3H4O2/c1-3-7-11(8-4-1)12-9-5-2-6-10-12;2*1-2-3(4)5/h1-10H;2*2H,1H2,(H,4,5)
